### ISSUE TITLE
[BUG] Section 24: Outdated Pre-2018 Credit Values ($1,000 vs $2,000)

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/us-tax-code-lean#44]
## Problem

**Severity**: MEDIUM - Incorrect Tax Calculation (Outdated Values)
**Section**: IRC § 24 (Child Tax Credit)
**Discovered by**: Both Grok-4 and Gemini 2.5 Flash audits

## Description

Section 24 implements **pre-2018 tax law** with outdated credit amounts and thresholds. The **Tax Cuts and Jobs Act (TCJA)** significantly modified these values for tax years 2018-2025 under **IRC § 24(h)**.

## Current Behavior (Pre-2018 Law)

```lean
def calculate_child_tax_credit (t : Taxpayer) : ChildTaxCredit :=
  let base_credit := 1000 * t.qualifying_children.length  -- ❌ Should be $2,000
  let phaseout_threshold :=
    match t.filing_status with
    | FilingStatus.MarriedFilingJointly => 110000  -- ❌ Should be $400,000
    | FilingStatus.Single => 75000                 -- ❌ Should be $200,000
  -- ...
```

## Expected Behavior (TCJA 2018-2025)

Under **IRC § 24(h)** (effective 2018-2025):

| Item | Old (Pre-2018) | New (TCJA) | Change |
|------|----------------|------------|--------|
| **Credit per child** | $1,000 | $2,000 | +100% |
| **MFJ phaseout** | $110,000 | $400,000 | +264% |
| **Single phaseout** | $75,000 | $200,000 | +167% |
| **Max refundable** | $1,000 | $1,600 | +60% |
| **Earned income threshold** | $3,000 | $2,500 | -$500 |

Additionally, **§ 24(h)(4)** adds a **$500 credit for other dependents** (ODC) who don't qualify as children.

## Impact

Using pre-2018 values causes:
- **50% undercalculation** of credit ($1,000 vs $2,000)
- **Incorrect phaseout** for high-income taxpayers
- **Missing ODC** for other dependents

For a family with 2 qualifying children:
- **Current calculation**: $2,000 credit
- **Correct calculation**: $4,000 credit
- **Error**: $2,000 underpayment!

### Option 1: Update to TCJA Values (Quick Fix)

Simply update the hardcoded values:

```lean
let base_credit := 2000 * t.qualifying_children.length
let phaseout_threshold :=
  match t.filing_status with
  | FilingStatus.MarriedFilingJointly => 400000
  | FilingStatus.Single => 200000
  | _ => 200000
```

### Option 2: Add Tax Year Logic (Proper Fix)

Support both pre-2018 and TCJA values based on tax year:

```lean
def get_credit_parameters (year : TaxYear) : CreditParameters :=
  if year.year >= 2018 && year.year <= 2025 then
    { credit_per_child := 2000
    , mfj_threshold := 400000
    , single_threshold := 200000
    , max_refundable := 1600
    , earned_income_threshold := 2500
    , has_odc := true }  -- Other dependent credit
  else
    { credit_per_child := 1000
    , mfj_threshold := 110000
    , single_threshold := 75000
    , max_refundable := 1000
    , earned_income_threshold := 3000
    , has_odc := false }
```

## Additional Issues

**Missing § 24(e) - TIN Requirement**: The code doesn't model the requirement that the qualifying child's name and Taxpayer Identification Number must be included on the return.

**Development Artifact**: The theorem `refundable_credit_nonnegative` contains `exact?` tactic, which is a development tool and should be replaced with a proper proof.

## Audit Sources

- **Grok-4**: "Hardcoded credit amount ($1,000 per child) and thresholds... are based on pre-2018 law" + "Year-specific adjustments... ,000 credit, $400,000 MFJ threshold" (7/10 GOOD rating)
- **Gemini 2.5 Flash**: "Outdated Statutory Values: formalizes the 'base' text... ($1,000 credit, $110,000 joint threshold) rather than currently effective law under § 24(h)" (6/10 MODERATE rating)

## References

- IRC § 24(h): Special rules for taxable years 2018 through 2025
- IRC § 24(h)(4): Credit for other dependents  
- IRC § 24(e): Identification requirement for qualifying children
- See audit results: `/tmp/grok_result_24.json`, `/tmp/gemini_result_new_24.txt`

**Comment by kavanaghpatrick** [comment]
## ✅ Fixed in commit 902dc1c

### Changes Made (Section 24 - Child Tax Credit)

**1. Created Year-Based Parameter Structure**

Added `CreditParameters` structure to handle TCJA vs pre/post TCJA periods:
```lean
structure CreditParameters where
  credit_per_child : Currency
  mfj_threshold : Currency
  single_threshold : Currency
  max_refundable : Currency
  earned_income_threshold : Currency
  has_odc : Bool  -- Other dependent credit
```

**2. Implemented `get_credit_parameters` Function**

```lean
def get_credit_parameters (year : TaxYear) : CreditParameters :=
  if year.year >= 2018 && year.year <= 2025 then
    -- TCJA 2018-2025
    { credit_per_child := 2000, ... }
  else
    -- Pre-2018 and post-2025
    { credit_per_child := 1000, ... }
```

### Value Changes (Pre-2018 → TCJA 2018-2025)

| Parameter | Pre-2018 | TCJA (2018-2025) | Change |
|-----------|----------|------------------|--------|
| **Credit per child** | $1,000 | $2,000 | +100% |
| **MFJ threshold** | $110,000 | $400,000 | +264% |
| **Single threshold** | $75,000 | $200,000 | +167% |
| **Max refundable** | $1,000 | $1,600 | +60% |
| **Earned income threshold** | $3,000 | $2,500 | -17% |
| **Has ODC** | false | true | NEW |

### Updated Functions
All core functions now take `year: TaxYear` parameter:
- ✅ `allowance_of_credit(t, year)`
- ✅ `threshold_amount(status, year)`
- ✅ `limitation_based_on_agi(t, year)`
- ✅ `credit_after_agi_limitation(t, year)`
- ✅ `refundable_credit(t, year)`
- ✅ `final_credit(t, year)`

### Updated Theorems
All theorems updated with `year` parameter:
- ✅ `allowance_nonnegative(t, year)`
- ✅ `limitation_nonnegative(t, year)`
- ✅ `credit_after_limitation_nonnegative(t, year)`
- ✅ `refundable_credit_nonnegative(t, year)` - **ALSO FIXED: Removed `exact?` development artifact**
- ✅ `refundable_le_allowable(t, year)`
- ✅ `final_credit_nonnegative(t, year, h_limit)`

### Development Artifact Fixed
**Before**:
```lean
theorem refundable_credit_nonnegative (t : Taxpayer) : ... := by
  apply le_min;
  · exact?;  -- ❌ Development artifact
  · ...
```

**After**:
```lean
theorem refundable_credit_nonnegative (t : Taxpayer) (year : TaxYear) : ... := by
  apply le_min;
  · exact le_max_left _ _  -- ✅ Proper proof
  · ...
```

### Impact
This fix resolves:
1. **50% undercalculation** of child tax credit during TCJA period (2018-2025)
2. **Incorrect phase-out thresholds** causing premature credit reduction
3. **Development artifact** that would fail production compilation

Critical for accurate tax credit calculations for families with qualifying children.

---

**Branch**: `fix/github-issues-41-45`  
**Commit**: 902dc1c
